US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-fluoro-4-methyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzamide
Example 21 was prepared from 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-5-fluoro-4-methyl-benzamide and 3-ethynyl-pyridine in the same manner as Example 15. ESI MS m/z 553 [C27H29FN6O4S+H]+.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-5-fluoro-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=C(C1C)F | C20H24FN5O4S
reactant | 3-ethynyl-pyridine | C(#C)C=1C=NC=CC1 | C7H5N
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-fluoro-4-methyl-5-(4-pyridin-3-yl-[1,2,3]triazol-1-yl)-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C(=C1)N1N=NC(=C1)C=1C=NC=CC1)C)F)=O)OC)NS(=O)(=O)C | C27H29FN6O4S
